US08053440B2
To a solution of 2-amino-4,6-dimethoxy-nicotinamide (300 mg, 1.52 mmol) and 4-(bis-(2-hydroxyethyl)amino)-benzaldehyde (318 mg, 1.52 mmol) in N,N-dimethylacetamide (10 mL) were added NaHSO3 (297 mg, 1.67 mmol) and p-TSA (376 mg, 1.98 mmol) and the reaction mixture was heated at 150° C. for 4 h, cooled to room temperature, and concentrated under reduced pressure. The residue was diluted with water and the solid was filtered off to give the crude product. The crude product was purified by column chromatography to give 2-(4-(bis(2-hydroxyethyl)amino)phenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one (60 mg, 10%). Selected data: MS (ES) m/z: 387.05; MP 277-279° C.

reactant | 2-amino-4,6-dimethoxy-nicotinamide | 1.52 mmol, 300 mg | NC1=C(C(=O)N)C(=CC(=N1)OC)OC | C8H11N3O3
reactant | 4-(bis-(2-hydroxyethyl)amino)-benzaldehyde | 1.52 mmol, 318 mg | OCCN(C1=CC=C(C=O)C=C1)CCO | C11H15NO3
reactant | NaHSO3 | 1.67 mmol, 297 mg | OS(=O)[O-].[Na+]
reactant | p-TSA | 1.98 mmol, 376 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | 2-(4-(bis(2-hydroxyethyl)amino)phenyl)-5,7-dimethoxypyrido[2,3-d]pyrimidin-4(3H)-one | 60 mg, 10% | OCCN(C1=CC=C(C=C1)C=1NC(C2=C(N1)N=C(C=C2OC)OC)=O)CCO | C19H22N4O5
